US07220862B2
(±)-3-(7-Methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester
A stirred solution of (±)-2-amino-3-(7-methyl-1H-indazol-5-yl)-propionic acid methyl ester (162.9 mg, 0.698 mmol) in methylene chloride (3 mL) at room temperature was treated with carbonyl diimidazole (113.2 mg, 1 equiv). After 1.5 h at room temperature, 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one (161.5 mg, 1 equiv.) was added. The mixture was stirred at room temperature overnight. A white precipitate had formed that was shown to be the desired product. The solvent was evaporated and the residue triturated with methylene chloride. The product was collected by filtration, washed with methylene chloride and dried in vacuo to give a white solid (241.5 mg, 71%). Some product remained in the mother liquors. 1H-NMR (dimethylformamide-d7, 500 MHz) δ 1.75 (4H, m), 2.78 (3H, s), 2.7–3.1 (4H, m), 3.35 (2H, m), 3.86 (3H, s), 4.44 (2H, s), 4.57 (1H, m), 4.72 (1H, m), 7.11 (3H, m), 7.31 (1H, s), 7.34 (2H, m), 7.72 (1H, s), 9.34 (1H, s). Mass spec.: 491.13 (MH)+.

reactant | (±)-2-amino-3-(7-methyl-1H-indazol-5-yl)-propionic acid methyl ester | 0.698 mmol, 162.9 mg | COC(C(CC=1C=C2C=NNC2=C(C1)C)N)=O | C12H15N3O2
reactant | carbonyl diimidazole | 113.2 mg, 1 equiv | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one | 161.5 mg, 1 equiv. | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | (±)-3-(7-Methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester | COC(C(CC=1C=C2C=NNC2=C(C1)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C26H30N6O4
